US09034880B2
Preparation of 2,3,4,5-tetrahydro-8-iodo-2-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[4,3-b]indole (Compound 485)
To a solution of 8-Iodo-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.5 g. 0.0016 mol) in N-methyl 2-pyrolidone (5 mL) was added powdered potassium hydroxide (0.9 g, 0.016 mol) and allowed to stir for 10 min at RT. 2-Methyl-5-vinyl-pyridine (0.969 g, 0.0048 mol) was added and stirred for further 24 hours at 100° C., after completion (TLC), reaction mixture was diluted with water (50 mL) and extracted with ethyl acetate (3×150 mL). The organic layer was dried over anhydrous sodium sulphate and concentrated under reduced pressure using rotary evaporator. The crude was semi-purified through column chromatography (6% Methanol:DCM in silica 100-200 mesh, Diameter of column—2.5 cm, Height of silica—approx. 5 inch), then further purified by preparative HPLC to get the desired compound as brown solid (0.105 g, 15.2% yield). 8-Iodo-2-methyl-5-[2-(6-methyl-pyridin-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.095 g, 0.00022 mol) was dissolved in THF (2.0 mL). A solution of oxalic acid dihydrate (0.0277 g, 0.00022 mol) in THF (2.0 mL) was added and stirred for 30 min at RT. The precipitate was filtered and dried to give oxalate salt as off white solid (0.09 g, 79% yield).

reactant | 8-Iodo-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.0016 mol, 0.5 g | IC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13IN2
reactant | potassium hydroxide | 0.016 mol, 0.9 g | [OH-].[K+]
reactant | 2-Methyl-5-vinyl-pyridine | 0.0048 mol, 0.969 g | CC1=NC=C(C=C1)C=C | C8H9N
solvent | N-methyl 2-pyrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 50 mL | O | H2O
product | 2,3,4,5-tetrahydro-8-iodo-2-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[4,3-b]indole | 0.105 g, 15.2% yield | IC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C)CCN(C3)C | C20H22IN3
